US04714776
A stirred mixture of 52 g (0.13 mole) of 4'-bromo-3,5-di(tertiary-butyl)-4-hydroxybenzophenone, 20 g (0.22 mole) of cuprous cyanide and 150 ml of quinoline was heated at about 180° C. for one day, followed by heating at reflux (235° to 245° C.) for two hours. The cooled solution was mixed with about one liter of 10% aqueous hydrochloric acid, and 400 ml of dichloromethane was added. The solid was separated by filtration, and extracted with additional hydrochloric acid and dichloromethane. The filtrates and washings were combined and the organic layer was separated and evaporated. The residue was recrystallized from a benzene-hexane mixture with treatment with decolorizing charcoal to provide 4'-cyano-3,5-di(tertiary-butyl)-4-hydroxybenzophenone. A further recrystallization from a mixture of ethanol and isopropanol with treatment with decolorizing charcoal provided white needles, m.p. 166.5° to 168° C. Analysis: Calculated for C22H25NO2 : % C, 78.8; %H, 7.5; %N, 4.2; Found; %C, 78.8; %H, 7.5; %N, 4.1.

reactant | 4'-bromo-3,5-di(tertiary-butyl)-4-hydroxybenzophenone | 0.13 mole, 52 g | BrC1=CC=C(C=C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C21H25BrO2
reactant | quinoline | 150 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrochloric acid | about one liter | Cl | ClH
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 4'-cyano-3,5-di(tertiary-butyl)-4-hydroxybenzophenone | C(#N)C1=CC=C(C=C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C22H25NO2
